US08217063B2
Methyl 4-[(4E)-5-{5-fluoro-2-[3-(2-oxopyrrolidin-1-yl)propoxy]phenyl}-3-{2-[4-(methoxycarbonyl)phenyl]ethyl}pent-4-en-1-yl]benzoate
146 mg (0.91 mmol) of 1-(3-chloropropyl)pyrrolidin-2-one [CAS Reg. No. 91152-30-6] and 295 mg (0.91 mmol) of anhydrous cesium carbonate are added to a solution of 215 mg (0.45 mmol) of methyl 4-[(4E)-5-(5-fluoro-2-hydroxyphenyl)-3-{2-[4-(methoxycarbonyl)phenyl]ethyl}pent-4-en-1-yl]benzoate in 5 ml of dry DMF, and the mixture is then stirred at 60° C. for 12 h. The mixture is then filtered, and the filtrate is evaporated to dryness. The residue is purified by preparative HPLC. This gives 165 mg (purity 93%, 0.25 mmol, 56% of theory) of a colorless oil.

reactant | 1-(3-chloropropyl)pyrrolidin-2-one | 0.91 mmol, 146 mg | ClCCCN1C(CCC1)=O | C7H12ClNO
reactant | cesium carbonate | 0.91 mmol, 295 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl 4-[(4E)-5-(5-fluoro-2-hydroxyphenyl)-3-{2-[4-(methoxycarbonyl)phenyl]ethyl}pent-4-en-1-yl]benzoate | 0.45 mmol, 215 mg | FC=1C=CC(=C(C1)/C=C/C(CCC1=CC=C(C(=O)OC)C=C1)CCC1=CC=C(C=C1)C(=O)OC)O | C29H29FO5
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | Methyl 4-[(4E)-5-{5-fluoro-2-[3-(2-oxopyrrolidin-1-yl)propoxy]phenyl}-3-{2-[4-(methoxycarbonyl)phenyl]ethyl}pent-4-en-1-yl]benzoate | FC=1C=CC(=C(C1)/C=C/C(CCC1=CC=C(C(=O)OC)C=C1)CCC1=CC=C(C=C1)C(=O)OC)OCCCN1C(CCC1)=O | C36H40FNO6
